US05607934
240 ml of 7N hydrochloric acid (an ethanolic solution) was dropwise added to 240 ml of an ethanolic solution containing 18.46 g of diethyl N-(2-hydroxyimino-4-methylpentanoyl)aminomalonate and 5.49 g of borane-trimethylamine, with ice-cooling. The mixture was stirred at room temperature for 15 hours. The reaction mixture was subjected to vacuum distillation at room temperature to remove the solvent. The residue was dissolved in dichloromethane. The resulting solution was washed with an aqueous solution saturated with sodium chloride and an aqueous solution saturated with sodium hydrogen carbonate in this order, then dried with anhydrous magnesium sulfate, and was subjected to distillation to remove the solvent. The resulting yellow oily substance was dissolved in 120 ml of toluene. The solution was refluxed for 1 hour and then subjected to distillation to remove the solvent. 19.02 g of the resulting orange oily substance was purified by silica gel column chromatography (eluant: dichloromethane/methanol =30/1) to obtain 2.94 g of 3-ethoxycarbonyl-1-hydroxy-6-isobutylpiperazine-2,5-dione as an orange oily substance.

reactant | hydrochloric acid | 7N, 240 ml | Cl | ClH
reactant | diethyl N-(2-hydroxyimino-4-methylpentanoyl)aminomalonate | 18.46 g | ON=C(C(=O)NC(C(=O)OCC)C(=O)OCC)CC(C)C | C13H22N2O6
reactant | borane-trimethylamine | 5.49 g | CN(C)C.B
product | 3-ethoxycarbonyl-1-hydroxy-6-isobutylpiperazine-2,5-dione | 2.94 g | C(C)OC(=O)C1C(N(C(C(N1)=O)CC(C)C)O)=O | C11H18N2O5
